US06169102A
To a solution of diisopropylamine (1.18 ml) in tetrahydrofuran (24 ml) was added a 1.6 M solution (5.24 ml) of n-butyllithium in hexane under ice cooling. The mixture was cooled to −78° C., to which was added 2-dimethylamino-2-oxazolin-4-one (1.07 g). The mixture was stirred for 30 minutes at room temperature and cooled again to −78° C. 1-benzyloxycarbonyl-5-chloro-3-chloromethylindol (1.40 g) was added. The whole was stirred at −78° C. to −40° C. for 30 minutes, at 0° C. for 2 hours and at room temperature for 40 minutes respectively. To the reaction mixture was added water and the whole was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated to give a residue, which was subjected to silica gel chromatography. Elution with hexane-ethyl acetate (1:1) gave 5-[(5-chloroindol-3-yl)methyl-2-dimethylamino-2-oxazolin-4-one (232 mg) as a crystal.

reactant | diisopropylamine | 1.18 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-dimethylamino-2-oxazolin-4-one | 1.07 g | CN(C=1OCC(N1)=O)C | C5H8N2O2
reactant | 1-benzyloxycarbonyl-5-chloro-3-chloromethylindol | 1.40 g | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=CC(=CC=C12)Cl)CCl | C17H13Cl2NO2
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | (5-chloroindol-3-yl)methyl-2-dimethylamino-2-oxazolin-4-one | 232 mg | ClC=1C=C2C(=CNC2=CC1)CC1C(N=C(O1)N(C)C)=O | C14H14ClN3O2
